US07214824B2
2-(4-tert-Butylphenoxy)-N-((1R)-1-{4-[(methylsulfonyl)amino]phenyl}ethyl)acetamide
To a pyridine (5.0 ml) solution of N-[(1R)-1-(4-aminophenyl)ethyl]-2-(4-tert-butylphenoxy)acetamide (420 mg, 1.0 mmol), methanesulfonyl chloride (114 mg, 1.0 mmol) was added at 0° C. and the mixture was stirred for 3 hours at 0° C. The reaction mixture was then quenched with 2 M HCl and then crude products were extracted with methylene dichloride The organic layer was then washed with brine, dried over Na2SO4. After filtration to separate solvent and sodium sulfate, the solvent was removed under reduced pressure to give a residue, which was applied to a silica gel chromatography column and eluted with methylene dichloride/ethylacetate=1/1 to furnish 120 mg (29% yield) of the title as a white solid.

reactant | N-[(1R)-1-(4-aminophenyl)ethyl]-2-(4-tert-butylphenoxy)acetamide | 1.0 mmol, 420 mg | NC1=CC=C(C=C1)[C@@H](C)NC(COC1=CC=C(C=C1)C(C)(C)C)=O | C20H26N2O2
reactant | methanesulfonyl chloride | 1.0 mmol, 114 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 5.0 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-tert-Butylphenoxy)-N-((1R)-1-{4-[(methylsulfonyl)amino]phenyl}ethyl)acetamide | 29% yield | C(C)(C)(C)C1=CC=C(OCC(=O)N[C@H](C)C2=CC=C(C=C2)NS(=O)(=O)C)C=C1 | C21H28N2O4S
